US04021539
N-[2-(β-hydroxyethyl-amino)-ethyl]-glucamine
The product was made from D-glucose and N-(β-hydroxyethyl)-ethylenediamine comparable as in Example A. A wax-like, colorless product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-(β-hydroxyethyl)-ethylenediamine | OCCNCCN | C4H12N2O
product | N-[2-(β-hydroxyethyl-amino)-ethyl]-glucamine | OCCNCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C10H24N2O6
